US05691330
The reaction and procedure were conducted in a similar manner as in Example 24 using 1.8 g of 5-acetyl-2-(4-chlorobutyryl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine and 1.6 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 1.0 g of 5-acetyl-2-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine as an oil, m.p. 235° C. as hydrochloride 1/2hydrate thereof.

reactant | 5-acetyl-2-(4-chlorobutyryl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 1.8 g | C(C)(=O)N1CC2=C(CC1)SC(=C2)C(CCCCl)=O | C13H16ClNO2S
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 1.6 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | hydrochloride | Cl | ClH
product | 5-acetyl-2-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 1.0 g | C(C)(=O)N1CC2=C(CC1)SC(=C2)C(CCCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F)=O | C25H28FN3O3S
